US03937702
To a solution of 2-hydroxy-2,3-dihydro-3,3-dimethylbenzofuran-5-yl methanesulphonate (12 parts) in ether (46 parts) was added methyl isocyanate (4.5 parts) and triethylamine (0.3 parts). The solution was left at room temperature for 2 hours and the solvent evaporated off. The crude product was recrystallised from a mixture of benzene and light petroleum to give 2-methylcarbamoyloxy-2,3-dihydro-3,3-dimethylbenzofuran-5-yl methanesulphonate, melting point 126°-127°C.

reactant | 2-hydroxy-2,3-dihydro-3,3-dimethylbenzofuran-5-yl methanesulphonate | CS(=O)(=O)OC=1C=CC2=C(C(C(O2)O)(C)C)C1 | C11H14O5S
reactant | methyl isocyanate | CN=C=O | C2H3NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | 2-methylcarbamoyloxy-2,3-dihydro-3,3-dimethylbenzofuran-5-yl methanesulphonate | CS(=O)(=O)OC=1C=CC2=C(C(C(O2)OC(NC)=O)(C)C)C1 | C13H17NO6S
